US06380235B1
A mixture of 5-bromo-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester (4.0 g, 12.8 mmol), iodomethane (2.74 g, 9.2 mmol), and K2CO3in CH3CN (60 mL) was stirred at room temperature under a blanket of nitrogen overnight. Upon completion of the reaction, ethyl acetate (200 mL) was added and the organic layer was washed with H2O (200 mL), dried over Na2SO4, and concentrated. The residue was purified via chromatography (silica gel, 25% ethyl acetate/hexane) to give 5-bromo-3-methyl-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester as a white solid: mp 98-99° C.; 1H-NMR (CDCl3) δ7.7 (d, 1H, J=8,5 Hz), 7.27 (bs, 2H), 7.09 (d, 1H, J=2 Hz), 3.4 (s, 3H), 1.7 (s, 9H); MS (ES) m/z 349([M+Na]+, 20%), 351([M+Na]+, 20%); Anal. Calc. For C13H15BrN2O3: C, 47.73; H, 4.62; N, 8.56. Found: C, 47.46; H, 4.5; N, 8.29.

reactant | 5-bromo-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester | 12.8 mmol, 4.0 g | C(C)(C)(C)OC(=O)N1C(NC2=C1C=CC(=C2)Br)=O | C12H13BrN2O3
reactant | iodomethane | 9.2 mmol, 2.74 g | IC | CH3I
reactant | CH3CN | 60 mL | CC#N | C2H3N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-bromo-3-methyl-2-oxo-2,3-dihydro-benzoimidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(N(C2=C1C=CC(=C2)Br)C)=O | C13H15BrN2O3
